US04906621
A mixture of 10.0 g of 4-hydroxyproline, 13 ml of 6N sodium hydroxide solution and 19.0 g of di-t-butyl dicarbonate is stirred vigorously at room temperature for 24 hours. Concentrated hydrochloric acid (6.5 ml) is added and the reaction mixture is extracted with 30 ml of chloroform. The chloroform is discarded, the oil is separated from the aqueous layer to give N-t-butoxycarbonyl-4-hydroxyproline. A solution thereof in 70 ml of methanol is treated with ethereal diazomethane (prepared from 20 g of N-methyl-N-nitrosourea, 60 ml of 40% aqueous potassium hydroxide and 200 ml of ether) to give N-t-butoxycarbonyl-4-hydroxyproline methyl ester.

reactant | 4-hydroxyproline | 10.0 g | OC1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | sodium hydroxide | 6N, 13 ml | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 19.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 6.5 ml | Cl | ClH
product | N-t-butoxycarbonyl-4-hydroxyproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)O | C10H17NO5
